US05068393
To a solution of 11 g of 1,1,2,3,3-pentamethyl indane (0.058 mole) and 7 g of succinic anhydride (0.07 mole) in 100 cm3 of anhydrous 1,2-dichloroethane, stirred at 0° C., there are added, by small portions, 9.4 g of aluminum chloride in a manner such that the temperature remains lower than 30° C. The reaction mixture is stirred for 3 hours at ambient temperature and then poured into 250 cm3 of ice water. The organic phase is decanted and the aqueous phase is extracted twice with 1,2-dichloroethane. The organic phases are combined, washed with water and dried on magnesium sulfate. The solvent is evaporated under reduced pressure and the resulting product is crystallized in isopropyl ether. 7 g of 4-(1,1,2,3,3-pentamethyl-5-indanyl)-4-oxo butyric acid in the form of white crystals whose melting point is 161° C. are obtained.

reactant | 1,1,2,3,3-pentamethyl indane | 0.058 mole, 11 g | CC1(C(C(C2=CC=CC=C12)(C)C)C)C | C14H20
reactant | succinic anhydride | 0.07 mole, 7 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | aluminum chloride | 9.4 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | 1,2-dichloroethane | 100 cm3 | ClCCCl | C2H4Cl2
product | 4-(1,1,2,3,3-pentamethyl-5-indanyl)-4-oxo butyric acid | 7 g | CC1(C(C(C2=CC(=CC=C12)C(CCC(=O)O)=O)(C)C)C)C | C18H24O3
